US07820699B2
107.1 Under an Ar atmosphere 1-benzyl-4-trifluoromethyl-pyrrolidine-3-carboxylic acid ethyl ester (10 g) (CAS152188-51-7P, synthesis described at Jean Pierre Begue et al. Tetrahedron Lett., 1993, 34(20), 3279-82) is dissolved in ethanol (100 ml). Acetic acid (0.19 ml), di-tert. butyl dicarbonate (7.6 g) and Pd/C (10%, 106 mg) were added to the solution. The argon atmosphere was changed to a hydrogen atmosphere. The mixture was stirred for 1 h at 25° C. and the hydrogen atmosphere was then refreshed. The mixture was afterwards stirred additional 7 h at 25° C., filtered then through a sartorius funnel and the filtrate was evaporated to dryness. The crude product as dissolved in THF (100 ml) and water (10 ml). DMAP (20 mg) was added to the solution and the mixture was stirred for 2 h at 25° C. After that the mixture was diluted with CH2Cl2 (100 ml) and extracted with water. The organic layer was dried over Na2SO4, filtered and evaporated to dryness to yield (3RS,4SR)-4-trifluoromethyl-pyrrolidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester (9.76 g) as colorless oil. MS 312.3 ([M+H]+).

reactant | 1-benzyl-4-trifluoromethyl-pyrrolidine-3-carboxylic acid ethyl ester | 10 g | C(C)OC(=O)C1CN(CC1C(F)(F)F)CC1=CC=CC=C1 | C15H18F3NO2
reactant | Acetic acid | 0.19 ml | C(C)(=O)O | C2H4O2
reactant | di-tert. butyl dicarbonate | 7.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | Pd/C | 106 mg | [Pd] | Pd
product | (3RS,4SR)-4-trifluoromethyl-pyrrolidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester | 9.76 g | C(C)OC(=O)C1CN(CC1C(F)(F)F)C(=O)OC(C)(C)C | C13H20F3NO4
